### PR TITLE
[Merged by Bors] - feat(Data/Nat/Choose): two binomial coefficient sum identities

### PR DESCRIPTION
**Pull request by felixpernegger**
This PR proves two well-known sum identities around binomial coefficients.
While there are probably hundreds of such identities, these two seem to be well known enough to be in mathlib (i.e. are mentioned in the Wikipedia [article](https://en.wikipedia.org/wiki/Binomial_coefficient#math_8) about binomial coefficients).

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
These seem reasonable to add, yeah. Thanks! Unfortunately it looks like you picked up a merge conflict. Please let us know if you need assistance resolving it.

File: Mathlib/Data/Nat/Choose/Vandermonde.lean [hunk 1]
```diff
@@ -34,3 +34,10 @@ theorem Nat.add_choose_eq (m n k : ℕ) :
     _ = ∑ ij ∈ antidiagonal k, m.choose ij.1 * n.choose ij.2 := by
       rw [coeff_mul, Finset.sum_congr rfl]
       simp only [coeff_X_add_one_pow, Nat.cast_id, imp_true_iff]
+
+/-- The sum of entries squared in a row of Pascal's triangle -/
+theorem sum_range_choose_sq (n : ℕ) :
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Vandermonde.lean:41]: this should be in the `Nat` namespace. Probably best to add `namespace Nat` to the entire file, but just adding `Nat.` here would be acceptable, too

**Review by joneugster — APPROVED** [review]

**Review by joneugster — COMMENTED** [review]
Thank you for the PR!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
